US06953790B2
N-[(2S,6R)-4-(Cyclopropylmethyl)-5-oxo-2-phenyl-1,4-oxazepan-6-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (0.015 mL, 0.109 mmol) was added to a solution of (2S,6R)-6-amino-4-(cyclopropylmethyl)-2-phenyl-1,4-oxazepan-5-one (27 mg, 0.104 mmol) and 4-nitrophenyl chloroformate (22 mg, 0.109 mmol) in tetrahydrofuran (2 mL) at 0° C. After 0.5 h, diisopropylethylamine (0.072 mL, 0.415 mmol), 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (36 mg, 0.124 mmol), and dichloromethane (2.5 mL) were added and the mixture warmed to ambient temperature. After 18 h, the mixture was concentrated. Purification by silca gel chromatography (100% dichloromethane→95% dichloromethane/methanol) gave the title compound (45 mg). MS 505.2559 (M+1).

reactant | Triethylamine | 0.109 mmol, 0.015 mL | C(C)N(CC)CC | C6H15N
reactant | (2S,6R)-6-amino-4-(cyclopropylmethyl)-2-phenyl-1,4-oxazepan-5-one | 0.104 mmol, 27 mg | N[C@H]1C(N(C[C@@H](OC1)C1=CC=CC=C1)CC1CC1)=O | C15H20N2O2
reactant | 4-nitrophenyl chloroformate | 0.109 mmol, 22 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethylamine | 0.415 mmol, 0.072 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.124 mmol, 36 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | N-[(2S,6R)-4-(Cyclopropylmethyl)-5-oxo-2-phenyl-1,4-oxazepan-6-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 45 mg | C1(CC1)CN1C[C@@H](OC[C@H](C1=O)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O)C2=CC=CC=C2 | C27H32N6O4
